US09303040B2
tert-Butyl 1-(1-(4-chlorophenyl)-2-oxoethyl)cyclopropylcarbamate (0.64 mmol), 2-methyl-2-butene (1.6 mL, 2.0 M THF solution, 3.2 mmol) and KH2PO4 (0.087 g, 0.64 mmol) were dissolved in t-BuOH (20 mL)-water (6 mL). Sodium chlorite (0.174 g, 1.93 mmol) was added portionwise at 0° C. The mixture was stirred at room temperature for 2 hours and then acidified with 10% citric acid. The reaction was extracted with EtOAc. The combined organic layers were washed with brine, dried and concentrated to give 2-(1-(tert-butoxycarbonylamino)cyclopropyl)-2-(4-chlorophenyl)acetic acid (0.19 g, 91%) as a colorless syrup, which was used for amide coupling without further purification. LCMS: 325.8 [M+H+] (APCI+); Rf: 3.31 min.

reactant | tert-Butyl 1-(1-(4-chlorophenyl)-2-oxoethyl)cyclopropylcarbamate | 0.64 mmol | ClC1=CC=C(C=C1)C(C=O)C1(CC1)NC(OC(C)(C)C)=O | C16H20ClNO3
reactant | 2-methyl-2-butene | 3.2 mmol, 2.0 M, 1.6 mL | CC(C)=CC | C5H10
reactant | KH2PO4 | 0.64 mmol, 0.087 g | OP(=O)(O)[O-].[K+]
reactant | Sodium chlorite | 1.93 mmol, 0.174 g | Cl(=O)[O-].[Na+]
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | t-BuOH | 20 mL | CC(C)(C)O | C4H10O
solvent | water | 6 mL | O | H2O
product | 2-(1-(tert-butoxycarbonylamino)cyclopropyl)-2-(4-chlorophenyl)acetic acid | 0.19 g, 91% | C(C)(C)(C)OC(=O)NC1(CC1)C(C(=O)O)C1=CC=C(C=C1)Cl | C16H20ClNO4
